US07531663B2
0.57 g (13.6 mmol) of lithium hydroxide monohydrate and 70 cm3 of water are added at a temperature in the region of 20° C. to 1.45 g (4.53 mmol) of 6-fluoro-3-methoxycarbonyl-1-(quinol-4-yl)-1H-indole dissolved in 70 cm3 of tetrahydrofuran. After stirring at the reflux point of the solvent for 16 hours, the reaction mixture is concentrated under reduced pressure (2.7 kPa) to give a residue which is taken up with 13.6 cm3 of N hydrochloric acid. After filtering off and drying the solid residue at atmospheric pressure at 60° C., 1.35 g of 3-carboxy-6-fluoro-1-(quinol-4-yl)-1H-indole are obtained in the form of a yellow solid melting at 190° C.

reactant | lithium hydroxide monohydrate | 13.6 mmol, 0.57 g | O.[OH-].[Li+]
reactant | water | 70 cm3 | O | H2O
reactant | 6-fluoro-3-methoxycarbonyl-1-(quinol-4-yl)-1H-indole | 4.53 mmol | FC1=CC=C2C(=CN(C2=C1)C1=CC=NC2=CC=CC=C12)C(=O)OC | C19H13FN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 70 cm3 | O1CCCC1 | C4H8O
product | 3-carboxy-6-fluoro-1-(quinol-4-yl)-1H-indole | 1.35 g | C(=O)(O)C1=CN(C2=CC(=CC=C12)F)C1=CC=NC2=CC=CC=C12 | C18H11FN2O2
